US09388165B2
Step (1): Preparation of 6-methylisoquinoline
p-Tolualdehyde (53 mL, 0.486 mol) was stirred in a solvent of chloroform (900 mL), slowly added with aminoacetaldehyde dimethyl acetal (59.3 mL, 0.486 mol), and stirred at 90° C. until about a half of the reaction solution had evaporated. The reaction solution was cooled to room temperature, and the yellow reaction solution was dissolved in chloroform (400 mL), followed by cooling to 0° C. or lower. The reaction solution was slowly added with ethyl chloroformate (48 mL, 0.486 mol) and triethyl phosphite (104 mL, 0.583 mol), followed by stirring for 24 hours at room temperature. The reaction solution was cooled to 0° C. or lower, slowly added with titanium tetrachloride (213.6 mL, 1.94 mol), and refluxed for 12 hours or more. The temperature of the reaction solution was adjusted to room temperature and stirred for over 12 hours. The reaction mixture was poured over an ice water to separate the organic layer and the aqueous layer, and the aqueous layer was washed with dichloromethane. The aqueous layer was poured into a saturated potassium sodium tartrate solution, and adjusted to have a pH value of 9 by adding an aqueous ammonia solution, and then extracted with dichloromethane. The combined organic layer thus obtained was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound (46.3 g, 66%).

reactant | p-Tolualdehyde | 0.486 mol, 53 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | aminoacetaldehyde dimethyl acetal | 0.486 mol, 59.3 mL | COC(CN)OC | C4H11NO2
reactant | ethyl chloroformate | 0.486 mol, 48 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethyl phosphite | 0.583 mol, 104 mL | P(OCC)(OCC)OCC | C6H15O3P
catalyst | titanium tetrachloride | 1.94 mol, 213.6 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | chloroform | 900 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-methylisoquinoline | 46.3 g, 66% | CC=1C=C2C=CN=CC2=CC1 | C10H9N
